US08013156B2
3,4-Dichloro-1,2,5-thiadiazole (2.00 mL, 21.3 mmol) was dissolved in 70 mL of t-butanol along with 4-pyridine methanol (1.05 g, 9.62 mmol). 30 mL of 1.0 M potassium t-butoxide (30 mmol) was added and the reaction was stirred at room temperature overnight. The reaction was diluted with 100 mL of water and neutralized with 1.0 M HCl. The product was extracted 3 times with 100 mL portions of ethyl acetate. The combined organic fractions were dried with magnesium sulfate and concentrated under vacuum. The residue was purified by flash chromatography with a 2:1 solution of hexanes in ethyl acetate, affording 4-(4-chloro-[1,2,5]thiadiazol-3-yloxymethyl)-pyridine (821 mg) as an off-white solid.

reactant | 3,4-Dichloro-1,2,5-thiadiazole | 21.3 mmol, 2.00 mL | ClC1=NSN=C1Cl | C2Cl2N2S
reactant | 4-pyridine methanol | 9.62 mmol, 1.05 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | potassium t-butoxide | 30 mmol, 1.0 M, 30 mL | CC(C)([O-])C.[K+]
solvent | t-butanol | 70 mL | C(C)(C)(C)O | C4H10O
solvent | water | 100 mL | O | H2O
solvent | HCl | 1.0 M | Cl | ClH
product | 4-(4-chloro-[1,2,5]thiadiazol-3-yloxymethyl)-pyridine | 821 mg | ClC=1C(=NSN1)OCC1=CC=NC=C1 | C8H6ClN3OS
